US07655670B2
1-(methylcarbonyloxy-methyl)-5-(1-acenaphthyl)-spiro[indoline-3,4′-piperidin]-2-one (Compound #30)
1-Bromo-acenaphthene (0.022 g, 0.093 mmol) and 1-(methoxycarbonylmethyl)-spiro[indoline-3,4′-piperidin]-2-one (0.013 g, 0.046 mmol) were dissolved in dry N,N-dimethylformamide (1 mL). Potassium carbonate (0.02 g, 0.14 mmol) was then added and the reaction mixture was stirred at room temperature under a nitrogen atmosphere for 18 hours. The reaction mixture was partitioned with water and ethyl acetate. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (5% methanol/dichloromethane) to yield the title compound as a foam.

reactant | 1-Bromo-acenaphthene | 0.093 mmol, 0.022 g | BrC1CC2=CC=CC3=CC=CC1=C23 | C12H9Br
reactant | 1-(methoxycarbonylmethyl)-spiro[indoline-3,4′-piperidin]-2-one | 0.046 mmol, 0.013 g | COC(=O)CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C15H18N2O3
reactant | Potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(methylcarbonyloxy-methyl)-5-(1-acenaphthyl)-spiro[indoline-3,4′-piperidin]-2-one | CC(=O)OCN1C(C2(CCNCC2)C2=CC(=CC=C12)C1CC2=CC=CC3=CC=CC1=C23)=O | C27H26N2O3
